US07655657B2
5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-2-trifluoromethyl-1H-indole
5-Bromo-2-trifluoromethyl-1H-indole (Ref. US 2005043347, 6.05 g, 22.9 mmol) was treated with bis(pinacolato)diboron (7.74 g, 30.5 mmol), with KOAc (8.05 g, 82 mmol) in the presence of PdCl2(dppf).CH2Cl2 (901 mg, 1.1 mmol) in anhydrous DMF (242 mL) according to the procedure of Example 26A The titled compound was purified by chromatography (SiO2, hexane:EtOAc, 70:30, Rf=0.6) as solid (7.83 g, yield, 87.9%). 1H NMR (300 MHz, CD3OD) δ 1.36 (s, 12H), 6.91 (s, 1H), 7.43 (d, J=8.48 Hz, 1H), 7.64 (d, J=8.14 Hz, 1H), 8.11 (s, 1H) ppm; MS (DCI/NH3): 312 (M+H)+.

reactant | 5-Bromo-2-trifluoromethyl-1H-indole | 22.9 mmol, 6.05 g | BrC=1C=C2C=C(NC2=CC1)C(F)(F)F | C9H5BrF3N
reactant | bis(pinacolato)diboron | 30.5 mmol, 7.74 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 82 mmol, 8.05 g | CC(=O)[O-].[K+]
reactant | CH2Cl2 | 1.1 mmol, 901 mg | C(Cl)Cl | CH2Cl2
solvent | DMF | 242 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-2-trifluoromethyl-1H-indole | CC1(OB(OC1(C)C)C=1C=C2C=C(NC2=CC1)C(F)(F)F)C | C15H17BF3NO2
